US06716863B2
1-{3-[3-({2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazol-4-yl}methoxy)phenyl]propyl}-1H-1,2,3-triazole
Using 3-[3-(1H-1,2,3-triazol-1-yl)propyl]phenol(208 mg), 65% oily sodium hydride (39 mg) and 4-(chloromethyl)-2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazole (250 mg), the same reaction as Example 2 was carried out to yield the titled compound (366 mg).

reactant | 3-[3-(1H-1,2,3-triazol-1-yl)propyl]phenol | 208 mg | N1(N=NC=C1)CCCC=1C=C(C=CC1)O | C11H13N3O
reactant | sodium hydride | 39 mg | [H-].[Na+]
reactant | 4-(chloromethyl)-2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazole | 250 mg | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)F | C12H9ClFNO
product | 1-{3-[3-({2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazol-4-yl}methoxy)phenyl]propyl}-1H-1,2,3-triazole | 366 mg | FC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC=1C=C(C=CC1)CCCN1N=NC=C1 | C23H21FN4O2
